US08865712B2
a) 2-Bromo-5-fluoro-4-triethylsilanyl-pyridine
A solution of diisopropylamine (25.3 g, 250 mmol) in 370 ml THF was cooled with a dry-ice acetone bath at −75° C. BuLi (100 ml, 250 mmol, 2.5 M in hexanes) was added dropwise while maintaining the temperature below −50° C. After the temperature of the mixture had reached −75° C. again, a solution of 2-bromo-5-fluoropyridine (36.7 g, 208 mmol) in 45 ml THF was added dropwise. The mixture was stirred for 1 h at −75° C. Triethylchlorosilane (39.2 g, 260 mmol) was added quickly. The temperature stayed below −50° C. The cooling bath was removed and the reaction mixture was allowed to warm to −15° C., poured onto aq. NH4Cl (10%). TBME was added and the layers were separated. The organic layer was washed with brine, dried with MgSO4.H2O, filtered and evaporated to give a brown liquid which was distilled at 0.5 mm Hg to yield the title compound as a slightly yellow liquid (b.p. 105-111° C.). HPLC: RtH11=2.284 min; ESIMS: 290, 292 [(M+H)+, 1Br]; 1H-NMR (400 MHz, CDCl3): 8.14 (s, 1H), 7.40 (d, 1H), 1.00-0.82 (m, 15H).

reactant | diisopropylamine | 250 mmol, 25.3 g | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 250 mmol, 2.5 M, 100 ml | [Li]CCCC
reactant | 2-bromo-5-fluoropyridine | 208 mmol, 36.7 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | Triethylchlorosilane | 260 mmol, 39.2 g | C(C)[Si](Cl)(CC)CC | C6H15ClSi
solvent | THF | 370 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 2-Bromo-5-fluoro-4-triethylsilanyl-pyridine | BrC1=NC=C(C(=C1)[Si](CC)(CC)CC)F | C11H17BrFNSi
